US08242260B2
Step 3. Preparation of 4,5-dibromo-2-(1-methylcyclopropyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazole
A 250 mL round-bottom flask was purged with N2 and charged with NaH (95%, 0.33 g, 13.1 mmol). THF (15 mL) added, and the mixture cooled to 0° C. After 5 minutes, a solution of 4,5-dibromo-2-(1-methylcyclopropyl)-1H-imidazole (3.0 g, 10.7 mmol) in THF (20 mL) was added dropwise from an addition funnel over 5 minutes. The light tan solution was stirred at 0° C. for 25 minutes and SEMCl (2.1 mL, 11.8 mmol) was then added dropwise over 2 minutes. After 5 minutes, ice bath was removed, and the reaction stirred at room temperature. After stirring 2 hours, LCMS indicated 90% conversion. Another 0.3 mL of SEMCl (0.3 mL, 1.7 mmol) was added. LCMS indicates that the reaction has not proceeded; additional NaH (95%, 51 mg, 2.0 mmol) was added with concomitant gas evolution. After 15 minutes, LCMS indicated complete reaction. The reaction was quenched with water (1 mL). Heptane (250 mL) was added and organic layer was washed with water (200 mL). The aqueous layer was extracted with heptane (100 mL), and the combined organic layers were washed with water and brine, dried (Na2SO4), and concentrated to give 4.46 g of crude material. The crude material was purified by flash chromatography (SiO2; 0-25% EtOAc in heptane) to give the product (3.45 g) as a light yellow oil: LCMS(m/z) 409.0 (MH+), tR=1.27 minutes.

reactant | NaH | 13.1 mmol, 0.33 g | [H-].[Na+]
reactant | 4,5-dibromo-2-(1-methylcyclopropyl)-1H-imidazole | 10.7 mmol, 3.0 g | BrC=1N=C(NC1Br)C1(CC1)C | C7H8Br2N2
reactant | SEMCl | 11.8 mmol, 2.1 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
reactant | SEMCl | 1.7 mmol, 0.3 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
reactant | NaH | 2.0 mmol, 51 mg | [H-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4,5-dibromo-2-(1-methylcyclopropyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazole | 3.45 g | BrC=1N=C(N(C1Br)COCC[Si](C)(C)C)C1(CC1)C | C13H22Br2N2OSi
